US08557805B2
2-{2-[5-{[5-(Methylsulfonyl)pyridin-2-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetamide
A mixture of {2-[5-{[5-(methylsulfonyl)pyridin-2-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetic acid (210 mg), 1H-1,2,3-benzotriazol-1-ol (80 mg), N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (120 mg) and N,N-dimethylformamide (5 mL) was stirred at 50° C. for 30 min and cooled to 0° C. 10% Aqueous ammonia (1 mL) was added to the mixture, and the mixture was stirred at room temperature for 2.5 days. To the reaction mixture was added water and the mixture was extracted with ethyl acetate. The organic layer was washed successively with saturated aqueous sodium hydrogen carbonate and saturated brine, dried over magnesium sulfate, and subjected to silica gel short column chromatography (eluted with ethyl acetate-methanol (95/5, volume ratio)) to give pale-yellow crystals. The crystals were recrystallized from acetone-hexane to give the title compound (130 mg, yield 62%) as pale-yellow prism crystals.

reactant | {2-[5-{[5-(methylsulfonyl)pyridin-2-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetic acid | 210 mg | CS(=O)(=O)C=1C=CC(=NC1)OC=1C=C2C=C(NC2=C(C1)OC1CCOCC1)C=1SC(CN1)CC(=O)O | C24H25N3O7S2
reactant | 1H-1,2,3-benzotriazol-1-ol | 80 mg | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 120 mg | Cl.CN(CCCN=C=NCC)C
reactant | ammonia | 1 mL | N | H3N
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 2-{2-[5-{[5-(Methylsulfonyl)pyridin-2-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetamide | 130 mg, yield 62% | CS(=O)(=O)C=1C=CC(=NC1)OC=1C=C2C=C(NC2=C(C1)OC1CCOCC1)C=1SC(CN1)CC(=O)N | C24H26N4O6S2
